US04284641
Preparation of 1-(cyclopentylmethyl)imidazole
A solution of sodium ethoxide was made by dissolving sodium (2.3 g, 0.1 mole) in absolute ethanol (100 ml). Imidazole (6.8 g, 0.1 mole) was then added. The mixture was heated under reflux and cyclopentylmethylbromide (16.3 g, 0.1 mole) was added dropwise. The reaction mixture was allowed to reflux for a further 16 hours after addition. The mixture was then left to cool.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.1 mole, 2.3 g | [Na] | Na
reactant | Imidazole | 0.1 mole, 6.8 g | N1C=NC=C1 | C3H4N2
reactant | cyclopentylmethylbromide | 0.1 mole, 16.3 g | C1(CCCC1)CBr | C6H11Br
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(cyclopentylmethyl)imidazole | C1(CCCC1)CN1C=NC=C1 | C9H14N2
